US07612202B2
A 1.25 cm width column was filled with 10 grams of the ion exchange resin Lewatit Mono Plus™ MP-64. A solvent mixture comprising 55% water and 45% acetonitrile (20 ml) was added and 30 minutes were allowed for resin swelling. Then, the solution was allowed to drain up to the top of the resin and a solution of the mother liquor of example 1 (50 ml) was passed through the column at a rate of about 1 ml/1 min. The first volume was discarded (10 ml) and then the eluted solution (the eluate) was collected (50 ml) and transferred to a reaction vessel. Temozolomide hydrochloride (3.33 grams, 0.0144 moles) was added and the mixture was heated to 60-63° C. under stirring and filtered at this temperature. Then, the mixture was cooled to 5° C., and stirring was maintained for about 30 minutes to enable crystallization. The crystals thus obtained were collected by filtration and washed with water (2×10 ml) and cold acetone (10 ml). The crystals were dried at 40° C. in vacuum to obtain 2.52 grams (0.013 moles) of Temozolomide base in 90.3% yield. Purity (by HPLC): 99.9%.

reactant | water | O | H2O
reactant | Temozolomide hydrochloride | 0.0144 moles, 3.33 grams | CN1C(=O)N2C=NC(=C2N=N1)C(=O)N.Cl
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Temozolomide | 0.013 moles, 2.52 grams, 90.3% yield | CN1C(=O)N2C=NC(=C2N=N1)C(=O)N | C6H6N6O2
